US07399867B2
Combine 1,3-difluoro-2-methylsulfanyl-benzene (4.3 g, 27 mmol), iron (300 mg, 5.4 mmol), bromine (1.4 mL, 27 mmol), aluminium chloride (400 mg, 3.0 mmol) and dichloromethane (100 mL), at 0° C. Stir the reaction mixture at room temperature for 2 hours. Add saturated sodium thiosulfate solution (20 mL) and diethyl ether (100 mL). Separate the layers and wash the organic layer with brine (20 mL). Dry with MgSO4, filter and concentrate in vacuo. Chromatograph the residue on a column eluting the material with diethyl ether in hexane (0 to 5%) to give 1.1 g of 5-bromo-1,3-difluoro-2-methylsulfanyl-benzene (17%).

reactant | 1,3-difluoro-2-methylsulfanyl-benzene | 27 mmol, 4.3 g | FC1=C(C(=CC=C1)F)SC | C7H6F2S
reactant | bromine | 27 mmol, 1.4 mL | BrBr | Br2
reactant | aluminium chloride | 3.0 mmol, 400 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium thiosulfate | 20 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
catalyst | iron | 5.4 mmol, 300 mg | [Fe] | Fe
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-bromo-1,3-difluoro-2-methylsulfanyl-benzene | 1.1 g, 17% | BrC=1C=C(C(=C(C1)F)SC)F | C7H5BrF2S
